US06479486B2
(1R*,2S*,5S*,6RS)-8-Benzyl-6-(tert-butoxycarbonyl)-2-(3-hydroxypropynyl)-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol
A solution of n-butyl lithium in hexanes (1.6M, 34 ml, 55.4 mmol) was added dropwise to a stirred solution of O-trimethylsilyl propargyl alcohol (8 ml, 52 mmol) in tetrahydrofuran (40 ml) at −78° C. This solution was added via syringe to a stirred solution of (1R*,5S*,6RS)-8-benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octan-2-one (Description 24; a 3:1 mixture of C6 epimers, 5 g, 12.7 mmol) in tetrahydrofuran (30 ml) at −78° C. over 30 minutes. The reaction mixture was stirred for 1 hour and quenched with acetic acid (3.1 ml), warm up to room temperature and concentrated in vacuo. The residue was treated with tetrahydrofuran (50 ml) followed by 1M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (75 ml). The mixture was stirred for 30 minutes and concentrated in vacuo. The residue was treated with ethyl acetate (200 ml), washed with water and brine, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:ethyl acetate) to give the title compound (4.05 g, 71%) as a 3:1 mixture of C6 epimers.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | (1R*,5S*,6RS)-8-benzyl-6-(tert-butoxycarbonyl)-1-phenyl-8-azabicyclo[3.2.1]octan-2-one | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1C(C2)C(=O)OC(C)(C)C)=O)C2=CC=CC=C2 | C25H29NO3
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (1R*,2S*,5S*,6RS)-8-Benzyl-6-(tert-butoxycarbonyl)-2-(3-hydroxypropynyl)-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 4.05 g, 71% | C(C1=CC=CC=C1)N1[C@@]2([C@@](CC[C@H]1C(C2)C(=O)OC(C)(C)C)(O)C#CCO)C2=CC=CC=C2 | C28H33NO4
